US09056874B2
(±)-2-((5,7-Dimethyl-1H-indol-4-yl)(methoxy)methyl)-1H-benzo[d]imidazole-5-carbonitrile
The title compound was synthesized from a mixture of (±)-2-((5,7-dimethyl-1-tosyl-1H-indol-4-yl)(methoxy)methyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazole-5-carbonitrile and (±)-2-((5,7-dimethyl-1-tosyl-1H-indol-4-yl)(methoxy)methyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazole-6-carbonitrile as described in Example 64-B and 64-C. 1H NMR (400 MHz, DMSO-d6) δ ppm 10.96 (s, 1H) 7.96 (s, 1H) 7.63 (d, J=8.34 Hz, 1H) 7.53 (d, J=8.34 Hz, 1H) 7.20 (t, J=2.65 Hz, 1H) 6.75 (s, 1H) 6.49 (br.s, 1H) 6.21 (s, 1H) 3.35 (s, 3H) 2.43 (s, 3H) 2.42 (s, 3H). HRMS calcd. for C20H18N4O (M+H)+ 331.1553. found 331.1559.

reactant | (±)-2-((5,7-dimethyl-1-tosyl-1H-indol-4-yl)(methoxy)methyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazole-5-carbonitrile | CC=1C(=C2C=CN(C2=C(C1)C)S(=O)(=O)C1=CC=C(C)C=C1)C(C1=NC2=C(N1COCC[Si](C)(C)C)C=CC(=C2)C#N)OC | C33H38N4O4SSi
reactant | (±)-2-((5,7-dimethyl-1-tosyl-1H-indol-4-yl)(methoxy)methyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazole-6-carbonitrile | CC=1C(=C2C=CN(C2=C(C1)C)S(=O)(=O)C1=CC=C(C)C=C1)C(C1=NC2=C(N1COCC[Si](C)(C)C)C=C(C=C2)C#N)OC | C33H38N4O4SSi
product | (±)-2-((5,7-Dimethyl-1H-indol-4-yl)(methoxy)methyl)-1H-benzo[d]imidazole-5-carbonitrile | CC=1C(=C2C=CNC2=C(C1)C)C(C1=NC2=C(N1)C=CC(=C2)C#N)OC | C20H18N4O
